US05486618
1-Phenyl-4-cyano-5-(phenylureido)-pyrazole
9.0 g (80 mmol) of potassium tert-butylate and 8.7 ml (80 mmol) of phenyl isocyanate were added to a solution of 5.52 g (30 mmol) of 1-phenyl-4-cyano-5-aminopyrazole in 100 ml of toluene. The mixture was heated for 15 hours at 80° C. and then cooled, the insoluble constituents were separated off and the resulting solution was acidified with acetic acid, the product crystallizing out. Yield: 96%.

reactant | potassium tert-butylate | 80 mmol, 9.0 g | CC(C)(C)[O-].[K+]
reactant | phenyl isocyanate | 80 mmol, 8.7 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-phenyl-4-cyano-5-aminopyrazole | 30 mmol, 5.52 g | C1(=CC=CC=C1)N1N=CC(=C1N)C#N | C10H8N4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Phenyl-4-cyano-5-(phenylureido)-pyrazole | Yield: 96% | C1(=CC=CC=C1)N1N=CC(=C1NC(=O)NC1=CC=CC=C1)C#N | C17H13N5O
